US08754107B2
To potassium hydride (35 weight % in oil, washed with heptane (×3), 3.01 g, 26.3 mmol), in THF (20 mL) was added a solution of (3S,7aS)-7a-cyclopropyl-3-phenyltetrahydropyrrolo[2,1-b]oxazol-5(6H)-one (preparation #23) (2.56 g, 10.5 mmol) in THF (20 mL) dropwise via an addition funnel. A solution of methyl benzenesulfinate (1.97 g, 12.6 mmol) in THF (20 mL) was then added dropwise via an addition funnel. The reaction mixture was stirred at ambient temperature for about 16 hours. The reaction was quenched by the addition of water (4.2 mL). The mixture was concentrated and the residue was partitioned between 0.5 M H3PO4 (100 mL) and DCM (200 mL). The layers were separated and the aqueous layer was extracted with DCM (3×100 mL). The combined organic extracts were washed with brine, dried over MgSO4, filtered and concentrated to yield a light brown solid. Toluene (83 mL) was added followed by solid Na2CO3 (10.35 g). The reaction mixture was refluxed for about 16 hours and then filtered and concentrated in vacuo. The residue was purified on a Biotage silica gel column eluting with heptane/EtOAc (4:1). A second purification on silica gel eluting DCM/EtOAc (1:0 to 4:1) afforded (3S,7aR)-7a-cyclopropyl-3-phenyl-2,3-dihydropyrrolo[2,1-b]oxazol-5(7aH)-one (1.82 g, 7.57 mmol). 1H NMR (CDCl3-d) δ 7.34 (m, 4H), 7.28 (m, 1H), 7.11 (d, 1H), 6.08 (d, 1H), 5.06 (t, 1H), 4.69 (t, 1H), 4.43 (dd, 1H), 1.14 (m, 1H), 0.45 (m, 2H), 0.32 (m, 1H), 0.21 (m, 1H).

reactant | potassium hydride | 26.3 mmol, 3.01 g | [H-].[K+]
reactant | (3S,7aS)-7a-cyclopropyl-3-phenyltetrahydropyrrolo[2,1-b]oxazol-5(6H)-one | 10.5 mmol, 2.56 g | C1(CC1)[C@]12OC[C@@H](N1C(CC2)=O)C2=CC=CC=C2 | C15H17NO2
reactant | methyl benzenesulfinate | 12.6 mmol, 1.97 g | C1(=CC=CC=C1)S(=O)OC | C7H8O2S
reactant | Na2CO3 | 10.35 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | Toluene | 83 mL | C1(=CC=CC=C1)C | C7H8
product | (3S,7aR)-7a-cyclopropyl-3-phenyl-2,3-dihydropyrrolo[2,1-b]oxazol-5(7aH)-one | 7.57 mmol, 1.82 g | C1(CC1)[C@]12OC[C@@H](N1C(C=C2)=O)C2=CC=CC=C2 | C15H15NO2
